US07858640B2
[8-chloro-3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic Acid
A solution of [8-chloro-3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.10 g), ethanol (6.0 mL), water (2.0 mL) and saturated aqueous lithium hydroxide solution (2.0 mL) was stirred at room temperature for 5 hours. The ethanol was removed under reduced pressure and the pH of the residue adjusted to 4 by the addition of glacial acetic acid. The resulting precipitate was collected by filtration, washed with water and purification by preparative reverse-phase HPLC using a gradient over 37 minutes of acetonitrile in water (20% to 95% of organic modifier) gave title compound as an off-white solid, 0.039 mg.

reactant | [8-chloro-3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.10 g | COC(COC1=C2C=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)=O | C20H17Cl2NO3
reactant | ethanol | 6.0 mL | C(C)O | C2H6O
reactant | lithium hydroxide | 2.0 mL | [OH-].[Li+]
solvent | water | 2.0 mL | O | H2O
product | [8-chloro-3-(4-chlorobenzyl)-2-methylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)OCC(=O)O | C19H15Cl2NO3
